US09289419B2
Step-2: (R)-5-(2-(3,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid
The title compound was prepared by a method substantially similar to that mentioned in step-5 and step-6 of example-3 using (R)-2-(3,5-Difluorophenyl)pyrrolidine hydrochloride (step-1) and Ethyl 5-bromo-pyrazolo[1,5-a]pyridine-3-carboxylate to afford the product as white solid. MS (ESI): m/z 344.1 (M+H).

reactant | (R)-2-(3,5-Difluorophenyl)pyrrolidine hydrochloride | Cl.FC=1C=C(C=C(C1)F)[C@@H]1NCCC1
reactant | Ethyl 5-bromo-pyrazolo[1,5-a]pyridine-3-carboxylate | BrC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9BrN2O2
product | (R)-5-(2-(3,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | FC=1C=C(C=C(C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)O | C18H15F2N3O2
